US04245107
408 mg. of 3-(1-methyl-1H-tetrazol-5-ylsulfinyl)propionic acid and 7-amino-3-(1H-1,2,3-triazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid were reacted in the same manner as described in Example 28 and 120 mg. of 7-[3-(1-methyl-1H-tetrazol-5-ylsulfinyl)propionamido]-3-(1H-1,2,3-triazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid were obtained.

reactant | 3-(1-methyl-1H-tetrazol-5-ylsulfinyl)propionic acid | CN1N=NN=C1S(=O)CCC(=O)O | C5H8N4O3S
reactant | 7-amino-3-(1H-1,2,3-triazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)CSC2=CN=NN2)C(=O)O)C1=O | C10H11N5O3S2
product | 7-[3-(1-methyl-1H-tetrazol-5-ylsulfinyl)propionamido]-3-(1H-1,2,3-triazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | CN1N=NN=C1S(=O)CCC(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=CN=NN2)C(=O)O)C1=O | C15H17N9O5S3
